US08202868B2
b.2.1: {4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-4-oxo-butyl}-methyl-carbamic acid tert-butyl ester
6 g of 4-(tert-butoxycarbonyl-methyl-amino)-butyric acid (27.6 mmol) and 5.53 g of triethylamine (54.6 mmol) were dissolved in 100 ml of dimethylformamide. 4.1 g of hydroxybenzotriazole (HOBt, 30.35 mmol), 7.6 g of 2-tert-butyl-4-(piperazin-1-yl)-6-cyclobutyl-pyrimidine (27.7 mmol), and 5.8 g of N-ethyl-N′-(3-dimethylaminopropyl)-carbodimide hydrochloride (EDCl, 30.26 mmol) were added at room temperature, and the reaction mixture was stirred for 16 h. The reaction mixture was partitioned between water and ethyl acetate, the organic phase dried over magnesium sulfate, filtered, and concentrated to dryness. The crude product was purified by chromatography on silica gel using dichloromethane. Fractions containing the product were combined and the solvent evaporated to yield 13.1 g of the title compound.

reactant | 4-(tert-butoxycarbonyl-methyl-amino)-butyric acid | 27.6 mmol, 6 g | C(C)(C)(C)OC(=O)N(CCCC(=O)O)C | C10H19NO4
reactant | triethylamine | 54.6 mmol, 5.53 g | C(C)N(CC)CC | C6H15N
reactant | hydroxybenzotriazole | 30.35 mmol, 4.1 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 2-tert-butyl-4-(piperazin-1-yl)-6-cyclobutyl-pyrimidine | 27.7 mmol, 7.6 g | C(C)(C)(C)C1=NC(=CC(=N1)N1CCNCC1)C1CCC1 | C16H26N4
reactant | N-ethyl-N′-(3-dimethylaminopropyl)-carbodimide hydrochloride | 30.26 mmol, 5.8 g | Cl.C(C)N=C=NCCCN(C)C
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | {4-[4-(2-tert-Butyl-6-cyclobutyl-pyrimidin-4-yl)-piperazin-1-yl]-4-oxo-butyl}-methyl-carbamic acid tert-butyl ester | 13.1 g | C(C)(C)(C)OC(N(C)CCCC(=O)N1CCN(CC1)C1=NC(=NC(=C1)C1CCC1)C(C)(C)C)=O | C26H43N5O3
